### PR TITLE
measurable_fun_if

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

This lemma has found a use in PR #749 and in PR #769 so it is maybe worth integrating master.

@t6s @hoheinzollern 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/measure.v [hunk 1]
```diff
@@ -996,6 +1020,42 @@ move=> mD mE DE; split => mf _ /= X mX.
   by rewrite setIA (setIidl DE) setIUr setICr set0U.
 Qed.
 
+Lemma measurable_fun_if (g h : T1 -> T2) D (mD : measurable D)
+    (f : T1 -> bool) (mf : measurable_fun setT f) :
```
Comment (zstone1) [inline theories/measure.v:1024]:
```suggestion
    (f : T1 -> bool) (mf : measurable_fun D f) :
```

File: theories/measure.v [hunk 2]
```diff
@@ -996,6 +1020,42 @@ move=> mD mE DE; split => mf _ /= X mX.
...
+  measurable_fun (D `&` (f @^-1` [set true])) g ->
+  measurable_fun (D `&` (f @^-1` [set false])) h ->
+  measurable_fun D (fun t => if f t then g t else h t).
+Proof.
+move=> mx my /= _ B mB.
+have mDf : measurable (D `&` [set b | f b]).
+  apply: measurableI => //.
+  by have := mf measurableT [set true]; rewrite setTI; exact.
```
Comment (zstone1) [inline theories/measure.v:1032]:
```suggestion
have mDf : measurable (D `&` [set b | f b]) by exact: mf.
```

File: theories/measure.v [hunk 3]
```diff
@@ -996,6 +1020,42 @@ move=> mD mE DE; split => mf _ /= X mX.
...
+have := mx mDf _ mB.
+have mDNf : measurable (D `&` f @^-1` [set false]).
+  apply: measurableI => //.
+  by have := mf measurableT [set false]; rewrite setTI; exact.
```
Comment (zstone1) [inline theories/measure.v:1036]:
```suggestion
have mDNf : measurable (D `&` f @^-1` [set false]) by exact: mf.
```

**Review by zstone1 — CHANGES_REQUESTED** [review]
The condition `measurable_fun setT f` is too strong. The suggestions should weaken it to `measurable_fun D f`, which is somewhat stronger.

File: theories/measure.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/measure.v:1024]: Indeed. I push it in a next commit with a shorter proof.

**Review by zstone1 — APPROVED** [review]
